US08791147B2
To a mixture of 2,5-dichloro-4-(3-fluorophenyl)pyridine (0.604 g, 2.5 mmol), 1,1′-bis(diphenylphosphino)ferrocene (dppf) (0.105 g, 0.19 mmol), and Pd(OAc)2 (0.025 g, 0.11 mmol) was added MeOH (3.5 mL) and triethylamine (0.365 mL, 2.6 mmol). The nitrogen atmosphere was replaced with carbon monoxide (3.4 atm) and the reaction mixture was heated to 100° C. in a sealed tube. After 17 h, the reaction mixture was diluted with EtOAc, washed with saturated NaHCO3 (1×), brine (1×), dried over MgSO4, filtered, and concentrated. Purification by flash column chromatography on silica gel (5% to 20% EtOAc in hexanes) gave methyl 5-chloro-4-(3-fluorophenyl)picolinate.

reactant | 2,5-dichloro-4-(3-fluorophenyl)pyridine | 2.5 mmol, 0.604 g | ClC1=NC=C(C(=C1)C1=CC(=CC=C1)F)Cl | C11H6Cl2FN
reactant | MeOH | 3.5 mL | CO | CH4O
reactant | triethylamine | 2.6 mmol, 0.365 mL | C(C)N(CC)CC | C6H15N
reactant | carbon monoxide | [C]=O | CO
reactant | EtOAc | CCOC(=O)C | C4H8O2
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 0.19 mmol, 0.105 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | Pd(OAc)2 | 0.11 mmol, 0.025 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 5-chloro-4-(3-fluorophenyl)picolinate | ClC=1C(=CC(=NC1)C(=O)OC)C1=CC(=CC=C1)F | C13H9ClFNO2
